* Schematics Netlist *



R_R4         $N_0001 0  10  
R_R1         $N_0003 $N_0002  5  
R_R3         $N_0004 $N_0001  15  
V_V1         $N_0005 $N_0002 DC 20  
R_R5         $N_0005 $N_0006  5  
R_R6         0 $N_0006  15  
H_H1         0 $N_0003 VH_H1 4
VH_H1        $N_0004 $N_0005 0V
R_R2         $N_0001 $N_0003  10  
I_I1         $N_0001 $N_0006 DC 2  
