* Schematics Netlist *



R_R1         $N_0002 $N_0001  3.99122807  
I_I1         0 $N_0001 DC 1  
R_R2         0 $N_0001  12  
V_V1         $N_0002 0 DC -2.2807  
