* Schematics Netlist *



R_R1         $N_0001 0  4  
R_R2         0 $N_0002  6  
R_R3         $N_0002 $N_0003  10  
R_R4         $N_0004 $N_0002  8  
R_R5         $N_0006 $N_0005  5  
R_R6         $N_0007 0  12  
R_R7         $N_0007 $N_0008  20  
X_U2         $N_0004 $N_0006 Sw_tOpen PARAMS: tOpen=0.1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U1         $N_0006 $N_0007 Sw_tClose PARAMS: tClose=0.1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         0 $N_0005  15u  
I_I2         $N_0004 $N_0003 DC 0.12  
V_V1         $N_0001 $N_0003 DC 10  
I_I1         $N_0008 0 DC 0.5  
