* Schematics Netlist *



V_V1         $N_0001 0 DC 10  
R_R1         $N_0002 $N_0001  50  
X_U1         $N_0003 $N_0002 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
L_L1         $N_0003 0  100mH  
