* Schematics Netlist *



R_R3         $N_0002 $N_0001  100  
R_R2         0 $N_0001  200  
L_L2         0 $N_0001  100mH IC=179.7mA 
C_C2         0 $N_0002  10u IC=25V 
