* Schematics Netlist *



R_R3         $N_0002 $N_0001  10  
R_R2         0 $N_0001  6  
R_R4         $N_0001 $N_0003  8  
I_I1         $N_0003 $N_0002 DC 120m  
V_V1         $N_0004 $N_0002 DC 10  
R_R1         $N_0004 0  4  
