* Schematics Netlist *



R_R1         $N_0002 $N_0001  2  
I_Is2         0 $N_0002 DC 1  
R_R5         $N_0004 $N_0003  6  
R_R4         0 $N_0004  3  
V_Us2         $N_0001 $N_0004 DC 3.5  
R_R2         $N_0002 $N_0004  1  
R_R3         $N_0005 $N_0004  4  
H_H1         $N_0001 $N_0003 VH_H1 4
VH_H1        $N_0005 0 0V
